US08957069B2
1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)-4-(1H-pyrazole-3-yl)piperazine
By using N,N-bis(2-chloroethyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine (165 mg, 0.50 mmol) synthesized in Reference Example 146 and 1H-pyrazole-5-amine (59 mg, 0.60 mmol), the reaction was carried out in the same manner as Example 117 to obtain 23 mg of the title compound as a colorless solid (yield 12%).

reactant | N,N-bis(2-chloroethyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine | 0.50 mmol, 165 mg | ClCCN(C=1C(=C(C2=C(CC(O2)(C)C)C1C)C)C)CCCl | C17H25Cl2NO
reactant | 1H-pyrazole-5-amine | 0.60 mmol, 59 mg | N1N=CC=C1N | C3H5N3
product | 1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)-4-(1H-pyrazole-3-yl)piperazine | 23 mg, yield 12% | CC1(OC2=C(C1)C(=C(C(=C2C)C)N2CCN(CC2)C2=NNC=C2)C)C | C20H28N4O
